US05610177
b) Di-t-butyl (1-naphthylmethyl)benzylmalonate
A suspension of 2.96 g (0.062 mol) of NaH. oil (50%) was washed with THF to remove the oil, then suspended in 300 mL THF, and then treated with 20.0 g (0.056 mol) of di-t-butyl (1-naphthylmethyl)malonate. The solution was refluxed for 40 minutes, then cooled to room temperature. A solution of 6.8 mL (0.057 mol) of benzyl bromide in 40 mL THF was then added and the mixture heated at reflux for 15 minutes, then left stirring at room temperature overnight. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed with 1N citric acid, saturated NaCl, saturated NaHCO3, and saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left 25 g of a yellow oil. Chromatography on silica gel, eluting with hexane:EtOAc (90:10) gave 20.0 g (80% yield) of the product as a clear oil. The structure was confirmed by NMR and mass spectroscopy.

reactant | NaH | 0.062 mol, 2.96 g | [H-].[Na+]
reactant | di-t-butyl (1-naphthylmethyl)malonate | 0.056 mol, 20.0 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H28O4
reactant | benzyl bromide | 0.057 mol, 6.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Di-t-butyl (1-naphthylmethyl)benzylmalonate | 20.0 g, 80% yield | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C29H34O4
